US07618984B2
4-Fluoroisoquinoline
A solution of n-butyllithium in n-hexane (1.58 M, 60.1 ml, Kanto Chemicals) was added with tetrahydrofuran (345 ml), and the mixture was sufficiently cooled on a dry ice-acetone bath. The mixture was added dropwise with a solution of 4-bromoisoquinoline (9.0 g, Tokyo Kasei Kogyo) in tetrahydrofuran (65 ml) over 1 hour so that the temperature of the reaction mixture should not exceed −65° C. The mixture was stirred at the same temperature for 30 minutes, and then added dropwise with a solution of N-fluorobenzenesulfonimide (30 g, Tokyo Kasei Kogyo) in tetrahydrofuran (100 ml) over 1 hour so that the temperature of the reaction mixture should not exceed −65° C. Subsequently, the mixture was stirred at the same temperature for 1 hour, then the cooling bath was removed, and the mixture was gradually warmed to room temperature. The reaction mixture was added with saturated aqueous sodium hydrogencarbonate (300 ml) and ethyl acetate (300 ml), and stirred at room temperature for 12 hours. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate 3 times (200 ml for each time). The combined organic layer was washed with saturated brine (500 ml), and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, the residue was added with chloroform (250 ml), and the insoluble matters were removed by filtration. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (n-hexane:ethyl acetate=5:1) to obtain the title compound (3.6 g).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-bromoisoquinoline | 9.0 g | BrC1=CN=CC2=CC=CC=C12 | C9H6BrN
reactant | N-fluorobenzenesulfonimide | 30 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | n-hexane | 1.58 M, 60.1 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 345 ml | O1CCCC1 | C4H8O
product | 4-Fluoroisoquinoline | 3.6 g | FC1=CN=CC2=CC=CC=C12 | C9H6FN
